US04198348
Gaseous chlorine is introduced at a speed of 95 g/h into a suspension of 194 g of 98.15% pure pelargonamide (1.21 mol) in 1400 ml of water. The introduction of chlorine is discontinued after 60 min and the suspension is still left under stirring for 20-30 min at 20° C. The solid is filtered off, is washed with water until all HCl has disappeared (300 cc. of water) and the chlorinated derivative is dried. 226 g of N-chloropelargonamide (yield 97.4%) having an active chlorine titer of 17.6% (theory 18.5%) are thus obtained.

reactant | chlorine | ClCl | Cl2
reactant | pelargonamide | 1.21 mol, 194 g | C(CCCCCCCC)(=O)N | C9H19NO
solvent | water | 1400 ml | O | H2O
product | N-chloropelargonamide | 226 g, yield 97.4% | ClNC(CCCCCCCC)=O | C9H18ClNO
